2113-11-20 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Bradycardia
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 450 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-19**] 11:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-20**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 74 (70 - 75) bpm
   BP: 150/68(88) {118/48(68) - 158/97(103)} mmHg
   RR: 24 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Height: 65 Inch
             Total In:
                                                                  1,781 mL
                                                                    163 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    531 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                  1,910 mL
   Urine:
                                                                  2,545 mL
                                                                  1,910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -764 mL
                                                                 -1,747 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   GENERAL: WDWN in NAD. Oriented x2.5. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   Brady, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/e. No femoral bruits.  1+ LE edema
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   106 K/uL
   10.8 g/dL
   193 mg/dL
   2.0 mg/dL
   29 mEq/L
    3.9 mEq/L
   40 mg/dL
   102 mEq/L
   140 mEq/L
   29.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2113-11-19**]  04:03 AM
                             [**2113-11-19**]  04:05 PM
                             [**2113-11-19**]  06:10 PM
                             [**2113-11-20**]  03:32 AM
   WBC
   7.9
   7.8
   8.4
   Hct
   26.1
   26.9
   29.3
   Plt
   104
   100
   106
   Cr
   1.9
   2.0
   2.0
   TropT
   0.22
   0.22
   Glucose
   78
   189
   193
   Other labs: PT / PTT / INR:20.3/84.5/1.9, CK / CKMB /
   Troponin-T:119/6/0.22, Alk Phos / T Bili:/0.4, Differential-Neuts:81.9
   %, Lymph:10.7 %, Mono:6.4 %, Eos:0.7 %, LDH:221 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   This is an 83 year old male with extensive CAD, CHF, CKD, and a.fib
   presents with new onset bradycardia and hyperglycemia.
   .
   # Bradycardia: Complete infranodal heart block. Temp pacer placed after
   INR reversal with FFP
   - Hold beta blocker although would likely not affect escape rhythm.
   - PPM placement tomorrow after cefazolin 2gm on call, hep drip stopped
   in AM and NPO after MN.
   -Hold coumadin and allow INR to drift down for pacer placement,
   meanwhile on Hep drip
   # Elevated troponins:
   - Pt's anginal equivalent is SOB, and trop trending up but could be
   from CHF, renal failure, wire placement. On medical management
   including hep drip.
   - Cont asa and statin
   .
   #Hyperglycemia: ? secondary to ischemia. No signs of infection on U/A
   or CXR and no localizing signs. DM previously well controlled on
   Glipizide only
   -Blood cx
   -Off insulin drip to ISS
   .
   # Acute on chronic renal failure: Peak at 2.5, returned to baseline 1.9
   with reperfusion/pacing. Likely due to relative dehydration from
   osmotic diuresis [**2-18**] hyperglycemia and poor forward flow secondary to
   bradycardia.
   - Monitor Cr with diuresis.
   .
   # Hyponatremia: resolved with IVF and resolution of hyperglycemia.
   .
   # HTN: Stable now but holding his home regimen (ace and bb)
   .
   # CHF: Overnight required lasix for increased O2 req and crackles and
   fluff on CXR. Responded well to 20mg IV lasix.
   - Will repeat given improved renal function.
   - Holding ACEi
   .
   # PVD: Stable.
   -Con't Cilostazol
   .
   # Hyperlipidemia: Con't Statin
   .
   # Atrial fibrillation: Currently well rate controlled [**2-18**] heart block.
   -Hold coumadin for pacer, on hep drip.
   .
   # Iron Def. Anemia: Stable and at baseline.
   -Con't Iron and monitor
   .
   FEN: Diabetic, cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with hep drip
   -Bowel regimen
   CODE: Confirmed full
   DISPO: CCU service for now
   Comm: [**Name (NI) 942**] (Daughter, HCP, primary decision maker)
   Home: [**Telephone/Fax (1) 1846**]
   Cell: [**Telephone/Fax (1) 1847**]
    1. IV access: Temporary central access (ICU) Order date: [**11-18**] @ 2127
   11. Furosemide 20 mg IV ONCE Duration: 1 Doses Order date: [**11-19**] @ 1800
   2. Acetaminophen [**Telephone/Fax (1) 1848**] mg PO Q6H:PRN
   please do not exceed 4g/day  Order date: [**11-19**] @ 1714
   12. Furosemide 40 mg IV ONCE Duration: 1 Doses Order date: [**11-19**] @ 2203
   3. Aspirin 81 mg PO DAILY  Order date: [**11-18**] @ 2129
   13. Haloperidol 2 mg IV ONCE Duration: 1 Doses Order date: [**11-20**] @ 0137
   4. Atorvastatin 10 mg PO DAILY  Order date: [**11-18**] @ 2129
   14. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**11-19**] @ 0710
   5. Bisacodyl 10 mg PO/PR DAILY:PRN  Order date: [**11-18**] @ 2127
   15. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**11-19**] @ 1104
   6. CefazoLIN 2 g IV ON CALL
   On call to EP lab for procedure [**11-20**]  Order date: [**11-19**] @ 1100
   16. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**11-18**] @ 2124
   7. Cilostazol *NF* 100 mg Oral [**Hospital1 **]  Order date: [**11-18**] @ 2129
   17. Potassium Chloride 20 mEq / 50 ml SW IV ONCE Duration: 1 Doses
   Order date: [**11-20**] @ 0539
   8. Dextrose 50% 25 gm IV PRN per insulin Gtt Protocol  Order date:
   [**11-19**] @ 0529
   18. Senna 1 TAB PO BID:PRN  Order date: [**11-18**] @ 2127
   9. Docusate Sodium (Liquid) 100 mg PO BID  Order date: [**11-18**] @ 2127
   19. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**11-18**] @ 2127
   10. Ferrous Sulfate 325 mg PO DAILY  Order date: [**11-18**] @ 2129

2113-11-21 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pacer placed (cordis removed 3PM).
   Mental status changes overnight with prominant visual/auditory
   halucinations (patient is legally blind).  Neuro exam non-focal, good
   attention but poor orientation.  Got Haldol 2 mg.
   Echo: ef40%, regional systolic dysfunction.
   Tele: Continued to have ventricular ectopy
   S: Annoyed about wrist restraints.
This is my home but people keep
   telling me it
s not, so I
m going to leave.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-21**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 60 (60 - 89) bpm
   BP: 102/48(60) {94/37(33) - 169/81(96)} mmHg
   RR: 21 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
                  Total In:
                                                                    386 mL
                  PO:
                                                                    120 mL
                  TF:
   IVF:
                                                                    266 mL
   Blood products:
   Total out:
                                                                  3,135 mL
                                                                    175 mL
   Urine:
                                                                  3,135 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,749 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula  3-4L
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GENERAL: WDWN in NAD.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.  Cordis site C/D/I
   CARDIAC: PMI located in 5th intercostal space, midclavicular line.
   RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/e. No femoral bruits.  trace LE edema
   PULSES:  2+ PT bilaterally
   NEURO: A&O to person,
hospital
 and
[**2113-3-18**]
.  Attention (days of
   week backwards, counting down) normal.  Thought content:
16 people in
   room
, speaking to imaginary people.  Thought process: analogies,
   idioms mostly normal.  CN 2-12 intact.  Normal bulk and tone, strength,
   sensation, reflexes (1+ bilaterally).
   Labs / Radiology
   92 K/uL
   9.9 g/dL
   166 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.8 mEq/L
   34 mg/dL
   107 mEq/L
   143 mEq/L
   27.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2113-11-19**]  04:03 AM
                             [**2113-11-19**]  04:05 PM
                             [**2113-11-19**]  06:10 PM
                             [**2113-11-20**]  03:32 AM
                             [**2113-11-21**]  12:07 AM
                             [**2113-11-21**]  03:36 AM
   WBC
   7.9
   7.8
   8.4
   7.2
   Hct
   26.1
   26.9
   29.3
   27.9
   Plt
   104
   100
   106
   92
   Cr
   1.9
   2.0
   2.0
   1.7
   TropT
   0.22
   0.22
   0.16
   Glucose
   78
   189
   193
   173
   166
   Other labs: PT / PTT / INR:19.8/36.2/1.8, CK / CKMB /
   Troponin-T:119/6/0.16, Alk Phos / T Bili:/0.4, Differential-Neuts:81.9
   %, Lymph:10.7 %, Mono:6.4 %, Eos:0.7 %, LDH:221 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   B, U Cx with no growth
   Assessment and Plan
   83 year old male with extensive CAD, CHF, CKD, and a.fib presented with
   new onset bradycardia and hyperglycemia.
   .
   # Rhythm : s/p permanent pacemaker placement on [**11-20**] for symptomatic
   bradycardia.  Has had ventricular ectopy overnight with appearance of
   bundle switching likely due to pacer versus native ventricular pacing.
   CXR shows pacer leads in good position and no concerning electrolyte
   abnormalities.  Continue to hold beta blocker, as not hypertensive and
   probably wouldn
t help with ventricular ectopy.  No indication for ICD.
   - Warfarin restarted
   .
   # Dementia and mental status changes: History of dementia with ongoing
   workup exacerbated by blindness and ICU delirium.  Recent MRI ([**9-11**])
   showed microvascular ischemia.  No evidence of infection by fever or
   WBC.
   - Continue Haldol 2mg as needed at night.
   - monitor neuro exam
   # Elevated troponins:
   - Pt's anginal equivalent is SOB, and trop trending up but could be
   from CHF, renal failure, wire placement. On medical management
   including hep drip.
   - Cont asa and statin
   .
   #Hyperglycemia: ? secondary to ischemia. No signs of infection on U/A
   or CXR and no localizing signs. DM previously well controlled on
   Glipizide only (10 ER QAM, 5 ER QPM).  Will restart when mental status
   clears.
   -Blood cx
   -Currently controlled on ISS
   .
   # Acute on chronic renal failure: Peak at 2.5, returned to baseline 1.9
   with reperfusion/pacing. Likely due to relative dehydration from
   osmotic diuresis [**2-18**] hyperglycemia and poor forward flow secondary to
   bradycardia.
   - Monitor Cr with diuresis.
   - Hold Lasix today, encourage PO fluids
   .
   # HTN: Stable now but holding his home regimen (ace and bb)
   .
   # CHF: Overnight required lasix for increased O2 req and crackles and
   fluff on CXR. Responded well to 20mg IV lasix.
   - Will repeat given improved renal function.
   - Holding ACEi
   .
   # PVD: Stable.
   -Con't Cilostazol
   .
   # Hyperlipidemia: Con't Statin
   .
   # Atrial fibrillation: Currently well rate controlled [**2-18**] heart block.
   -Coumadin restarted, INR 1.8 today
   .
   # Iron Def. Anemia: Stable and at baseline.
   -Con't Iron and monitor
   .
   FEN: Diabetic, cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with hep drip
   -Bowel regimen
   CODE: Confirmed full
   DISPO: CCU service for now
   Comm: [**Name (NI) 942**] (Daughter, HCP, primary decision maker)
   Home: [**Telephone/Fax (1) 1846**]
   Cell: [**Telephone/Fax (1) 1847**]